US07989454B2
3′-Fluoro-5-hydroxy-biphenyl-3-carboxylic acid tert-butyl ester
5-Benzyloxy-3′-fluoro-biphenyl-3-carboxylic acid tert-butyl ester (4.1 g) was dissolved in EtOH (50 mL) and hydrogenated in Parr apparatus over 10% Pd/C (410 mg) for 1 h. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure to yield the title compound (3.0 g, 96% yield).

reactant | 5-Benzyloxy-3′-fluoro-biphenyl-3-carboxylic acid tert-butyl ester | 4.1 g | C(C)(C)(C)OC(=O)C=1C=C(C=C(C1)OCC1=CC=CC=C1)C1=CC(=CC=C1)F | C24H23FO3
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 410 mg | [Pd] | Pd
product | 3′-Fluoro-5-hydroxy-biphenyl-3-carboxylic acid tert-butyl ester | 3.0 g, 96% yield | C(C)(C)(C)OC(=O)C=1C=C(C=C(C1)O)C1=CC(=CC=C1)F | C17H17FO3
